US08304419B2
Step B: Ethyl 2-(acetylamino)-3-oxobutanoate
4-Methylmorpholine (0.41 mL, 3.7 mmol) was added dropwise via a syringe pump to a mixture of ethyl 2-amino-3-oxobutanoate hydrochloride (565 mg, 3.12 mmol) and acetic anhydride (0.35 mL, 3.7 mmol) in DMF (2 mL) and THF (4 mL) at RT under N2 over a period of 30 min. The reaction was stirred for 1 h and water was then added. It was extracted with EtOAc. The organic layer was washed with saturated sodium bicarbonate, HCl (1 N) and brine, dried over sodium sulfate and concentrated. The residue was purified by ISCO FC with 0-40% EtOAc in hexane to give the title compound (73 mg, 13%) as a light-yellow crystalline solid. 1H NMR (400 MHz, CDCl3-d) δ ppm 6.60 (s, 1H) 5.22 (d, J=6.59 Hz, 1H) 4.25 (q, J=6.90 Hz, 2H) 2.36 (s, 3H) 2.04 (s, 3H) 1.28 (t, J=7.14 Hz, 2H).

reactant | 4-Methylmorpholine | 3.7 mmol, 0.41 mL | CN1CCOCC1 | C5H11NO
reactant | ethyl 2-amino-3-oxobutanoate hydrochloride | 3.12 mmol, 565 mg | Cl.NC(C(=O)OCC)C(C)=O
reactant | acetic anhydride | 3.7 mmol, 0.35 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | Ethyl 2-(acetylamino)-3-oxobutanoate | 73 mg, 13% | C(C)(=O)NC(C(=O)OCC)C(C)=O | C8H13NO4
